US07238808B2
Prepared from commercially available ethyl difluoroacetate (14.49 g, 117 mmol) and commercially available 4-(trifluoromethyl)acetophenone (15.36 g, 80 mmol) as described in example C.1 step 1 to give 4,4-difluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione (21.60 g, 101%) as alight brown oil. MS (ISN) 265.0 [(M−H)−].

reactant | ethyl difluoroacetate | 117 mmol, 14.49 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | 4-(trifluoromethyl)acetophenone | 80 mmol, 15.36 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
product | 4,4-difluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione | 21.60 g, 101% | FC(C(CC(=O)C1=CC=C(C=C1)C(F)(F)F)=O)F | C11H7F5O2
